US06867205B2
5-Aminomethyl-6-phenyl-2-thiophen-2-yl-pyrimidin-4-ylamine
The title compound, MS: m/e=282.8 (M+H+), was prepared from thiophene-2-carboxamidine and 2-benzylidene-malononitrile in analogy to the process described in Example 11 as a solid.

reactant | thiophene-2-carboxamidine | S1C(=CC=C1)C(=N)N | C5H6N2S
reactant | 2-benzylidene-malononitrile | C(C1=CC=CC=C1)=C(C#N)C#N | C10H6N2
product | 5-Aminomethyl-6-phenyl-2-thiophen-2-yl-pyrimidin-4-ylamine | NCC=1C(=NC(=NC1C1=CC=CC=C1)C=1SC=CC1)N | C15H14N4S
